US04880921
Preparation of N-Nicotinoyltyrosine ethyl ester
Nicotinic acid (12.3 g, 0.1 mol) was dissolved in dry pyridine (300 ml). The solution was cooled and dicyclohexylcarbodiimide (20.6 g, 0.1 mol) was added. After dissolution, tyrosine ethyl ester hydrochloride (24.6 g, 0.1 mol) was added and the solution was stirred overnight. The precipitated dicyclohexylurea (DCU) was removed by filtration. Additional DCU was removed by triturating the oil with hot water. The product was purified with acetone. Calculated for C17H18N2O4.1/2H2O: C, 63.16; H, 5.88; N, 8.66. Found: C, 63.10; H, 5.96; N, 8.59. The product can also be named N-[1-ethoxycarbonyl-2-(4'-hydroxyphenyl)-ethyl]nicotinamide.

reactant | Nicotinic acid | 0.1 mol, 12.3 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | dicyclohexylcarbodiimide | 0.1 mol, 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tyrosine ethyl ester hydrochloride | 0.1 mol, 24.6 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | N-Nicotinoyltyrosine ethyl ester | C(C)OC([C@@H](NC(C1=CN=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C17H18N2O4
